US07576080B2
A mixture of 4-chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine (100 mg, 0.378 mmol), N-[3-(3-amino-propoxy)-phenyl]-acetamide (94 mg, 0.45 mmol), diisopropylethylamine (147 mg, 1.14 mmol) and N,N-dimethylformamide (3.0 mL) was warmed to 120° C. for 20 minutes by microwave irradiation. The solvent was then concentrated in vacuo and the residue was dissolved in ethyl acetate (50 mL) and washed with of aqueous sodium bicarbonate (2×30 mL). The organic layer was concentrated in vacuo and purified by column chromatography over silica gel using 1% methanol in dichloromethane as eluant to give 125 mg (73%) of N-[3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]amino}propoxy)phenyl]acetamide as a white solid. MS [M+H] 437.1, 1H NMR (CDCl3) 6 (ppm) 8.50 (s, 1H), 7.41-7.36 (m, 2H), 7.25 (s, 1H), 7.21 (t, J=8.1 Hz, 1H), 7.07-6.95 (m, 3H), 6.94 (d, J=8.1 Hz, 1H), 6.55 (d, J=8.4 Hz, 1H), 5.01 (b, 1H), 3.89 (t, J=6.0 Hz, 2H), 3.64 (m, 2H), 2.19 (s, 3H), 1.98 (m, 2H).

reactant | 4-chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine | 0.378 mmol, 100 mg | ClC=1C2=C(N=CN1)SC=C2C2=CC=C(C=C2)F | C12H6ClFN2S
reactant | N-[3-(3-amino-propoxy)-phenyl]-acetamide | 0.45 mmol, 94 mg | NCCCOC=1C=C(C=CC1)NC(C)=O | C11H16N2O2
reactant | diisopropylethylamine | 1.14 mmol, 147 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-[3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]amino}propoxy)phenyl]acetamide | 125 mg, 73% | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)NCCCOC=2C=C(C=CC2)NC(C)=O | C23H21FN4O2S
